US08623859B2
4-Methoxy-N,2,6-trimethyl-N-{[5-({4-[(1-methyl-1H-imidazol-5-yl)methyl]piperazin-1-yl}carbonyl)-1,3,4-oxadiazol-2-yl]methyl}benzenesulfonamide
The title compound was prepared according to general procedure CD using 4-methoxy-N,2,6-trimethyl-N-{[5-(piperazin-1-ylcarbonyl)-1,3,4-oxadiazol-2-yl]methyl}benzenesulfonamide (42 mg, 0.10 mmol), 1-methyl-1H-imidazole-5-carbaldehyde (13 mg, 0.12 mmol), STAB (42 mg, 0.2 mmol) DCE (0.8 mL) and a few 4 Å molecular sieves. The crude product was purified using prep method D.

reactant | 4-methoxy-N,2,6-trimethyl-N-{[5-(piperazin-1-ylcarbonyl)-1,3,4-oxadiazol-2-yl]methyl}benzenesulfonamide | 0.10 mmol, 42 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC=1OC(=NN1)C(=O)N1CCNCC1)C)C | C18H25N5O5S
reactant | 1-methyl-1H-imidazole-5-carbaldehyde | 0.12 mmol, 13 mg | CN1C=NC=C1C=O | C5H6N2O
reactant | DCE | 0.2 mmol, 0.8 mL, 42 mg | ClCCCl | C2H4Cl2
product | 4-Methoxy-N,2,6-trimethyl-N-{[5-({4-[(1-methyl-1H-imidazol-5-yl)methyl]piperazin-1-yl}carbonyl)-1,3,4-oxadiazol-2-yl]methyl}benzenesulfonamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC=1OC(=NN1)C(=O)N1CCN(CC1)CC1=CN=CN1C)C)C | C23H31N7O5S
